US05312826
To a mixture of 2.9 g of 4-carboxy-5-{2-(benzyloxycarbonylamino)ethyl}oxazole, 4.9 g of pyridine, 6 ml of tert-butyl alcohol and 50 ml of chloroform was added dropwise 1.84 g of phosphoryl chloride at -10° C., and the mixture was stirred at the same temperature for 1 hour and further at room temperature overnight. The mixture was washed and dried, and then the solvent was removed. The residue was purified by silica gel chromatography to obtain 2.85 g of 4-tert-butoxycarbonyl-5-{2-(benzyloxycarbonylamino)ethyl}oxazole as a colorless oily product.

reactant | 4-carboxy-5-{2-(benzyloxycarbonylamino)ethyl}oxazole | 2.9 g | C(=O)(O)C=1N=COC1CCNC(=O)OCC1=CC=CC=C1 | C14H14N2O5
reactant | pyridine | 4.9 g | N1=CC=CC=C1 | C5H5N
reactant | tert-butyl alcohol | 6 ml | C(C)(C)(C)O | C4H10O
reactant | phosphoryl chloride | 1.84 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-tert-butoxycarbonyl-5-{2-(benzyloxycarbonylamino)ethyl}oxazole | 2.85 g | C(C)(C)(C)OC(=O)C=1N=COC1CCNC(=O)OCC1=CC=CC=C1 | C18H22N2O5
